US09376422B2
Step 2: Synthesis of N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-methoxy-4-methylcyclohexyl)amino)-2-methylbenzamide
A mixture of 3-(ethyl(4-methoxy-4-methylcyclohexyl)amino)-2-methylbenzoate (300 mg, 0.94 mmol) and NaOH (56 mg, 1.41 mmol) in 5 ml of ethanol and water (4:1) was heated at 70° C. for 2 h. The reaction mixture was concentrated to dryness and the crude material was partitioned between water and ethyl acetate. The organic layer was dried over Na2SO4, and concentrated under reduced pressure to afford 280 mg of the crude acid. A mixture of the crude acid (280 mg, 0.91 mmol), 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one (279 mg, 1.83 mmol), PyBOP (716 mg, 1.37 mmol) and triethylamine (0.12 ml, 0.91 mmol) in DMSO (3 ml) was stirred at room temperature overnight. The reaction mixture was diluted with water, extracted with 10% MeOH in DCM, dried over Na2SO4, and concentrated to a residue which was purified by silica gel column chromatography to afford the title compound N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-methoxy-4-methylcyclohexyl)amino)-2-methylbenzamide as a mixture of isomers (70 mg, 17%). LCMS: 440.45 (M+1)+; HPLC: 45.77 & 48.47% (@ 210-370 nm) (Rt; 4.297 & 4.430; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.45 (s, 1H), 8.03 (bs, 1H), 7.15 (bs, 2H), 6.91 (s, 1H), 5.85 (s, 1H), 4.25 (d, 2H, J=2.8 Hz), 3.10-2.90 (m, 7H), 2.19 (s, 6H), 2.10 (s, 3H), 1.72-1.10 (m, 8H), 1.08 & 0.99 (s, 3H), 0.77 (t, 3H).

reactant | 3-(ethyl(4-methoxy-4-methylcyclohexyl)amino)-2-methylbenzoate | 0.94 mmol, 300 mg | C(C)N(C=1C(=C(C(=O)[O-])C=CC1)C)C1CCC(CC1)(C)OC
reactant | NaOH | 1.41 mmol, 56 mg | [OH-].[Na+]
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one | 1.83 mmol, 279 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | PyBOP | 1.37 mmol, 716 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.91 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-methoxy-4-methylcyclohexyl)amino)-2-methylbenzamide | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC=C1)N(C1CCC(CC1)(C)OC)CC)C)=O | C26H37N3O3
